US06723735B1
A mixture of crude 5-bromo-N2-[3-(pyridin-3-yl)phenyl]pyridine-2,3-diamine and 98% formic acid was heated at 80° C. for 3 hours. The reaction was cooled, evaporated to dryness, the residue suspended in water and made basic by the cautious addition of solid sodium hydrogen carbonate. This was then extracted with ethyl acetate, the organics dried over anhydrous sodium sulphate, filtered and pre-adsorbed on to silica. Purification by silica gel chromatography eluting with dichloromethane/methanol/0.88 NH3 (95:4.5:0.5) furnished 6-bromo-3-[3-(pyridin-3-yl)phenyl]-3H-imidazo[4,5-b]pyridine as a tan solid (3.1 g, 89% over 2 steps), m.p. 212-213° C. (Found C, 57.24; H, 2.98; N, 15.57. C17H11BrN4. 0.25H2O requires C, 57.40; H, 3.26; N, 15.75); δH (400 MHz, d6-DMSO) 7.55 (1H, dd, J 5 and 5), 7.76 (1H, t, J 8), 7.86 (1H, d, J 8), 8.04 (1H, d, J 8), 8.22 (1H, d, J 8), 8.27 (1H, s), 8.56 (2H, d, J 6), 8.64 (1H, d, J 5), 9.04 (1H, s), 9.11 (1H, s); m/z (ES+) 351 and 353 (M++H).

reactant | 5-bromo-N2-[3-(pyridin-3-yl)phenyl]pyridine-2,3-diamine | BrC=1C=C(C(=NC1)NC1=CC(=CC=C1)C=1C=NC=CC1)N | C16H13BrN4
reactant | formic acid | C(=O)O | CH2O2
product | 6-bromo-3-[3-(pyridin-3-yl)phenyl]-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)N(C=N2)C2=CC(=CC=C2)C=2C=NC=CC2 | C17H11BrN4
